US05910495
2-[2,4-dioxo-5-phenyl-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
Solutions of N-isopropyl-N-(4-methoxy-phenyl)-2-(2-phenylamino-phenylamino)-acetamide(3.00 g) in THF (30 mL) and 2-(phenyl-hydrazono) propandioyl dichloride (1.89 g) in THF (30 mL) were added concomitantly dropwise with stirring in an ice/methanol bath over a 30 minute period. After complete addition, the solution was allowed to warm to room temperature and stirred over night. The solvent was evaporated under reduced pressure and the resultant oil taken into ethyl acetate (250 mL), washed with saturated sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (4.28 g) as a yellow foam.

reactant | N-isopropyl-N-(4-methoxy-phenyl)-2-(2-phenylamino-phenylamino)-acetamide | 3.00 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C24H27N3O2
reactant | 2-(phenyl-hydrazono) propandioyl dichloride | 1.89 g | C1(=CC=CC=C1)NN=C(C(=O)Cl)C(=O)Cl | C9H6Cl2N2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-[2,4-dioxo-5-phenyl-3-(phenyl-hydrazono)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 4.28 g | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)=NNC2=CC=CC=C2 | C33H31N5O4
